US07732468B2
6-(1H-Benzo[d]imidazol-6-yl)-3-(3,4,5-trimethoxyphenyl)-[1,2,4]triazolo[3,4-b][1,3,4]thiadiazole
A mixture of 4-amino-3-mercapto-5-(3,4,5-trimethoxyphenyl)-4H-1,2,4-triazole (80 mg, 0.28 mmol) and 3H-benzo[d]imidazole-5-carboxylic acid (46 mg, 0.28 mmol) in phosphoryl chloride (2 mL) was refluxed for 3 h. The solvent was evaporated and the residue was dissolved in dichloromethane (20 mL). It was neutralized with aqueous sodium carbonate. The organic layer was dried over sodium sulfate, concentrated to give 20 mg (17%) of the title compound as a solid. 1H NMR (CD3OD): 8.55 (s, 1H), 8.35 (s, 1H), 8.01-7.85 (m, 2H), 7.72 (s, 1H), 3.99 (s, 6H), 3.87 (s, 3H).

reactant | 4-amino-3-mercapto-5-(3,4,5-trimethoxyphenyl)-4H-1,2,4-triazole | 0.28 mmol, 80 mg | NN1C(=NN=C1C1=CC(=C(C(=C1)OC)OC)OC)S | C11H14N4O3S
reactant | 3H-benzo[d]imidazole-5-carboxylic acid | 0.28 mmol, 46 mg | N1=CNC2=C1C=CC(=C2)C(=O)O | C8H6N2O2
solvent | phosphoryl chloride | 2 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 6-(1H-Benzo[d]imidazol-6-yl)-3-(3,4,5-trimethoxyphenyl)-[1,2,4]triazolo[3,4-b][1,3,4]thiadiazole | 20 mg, 17% | N1C=NC2=C1C=C(C=C2)C2=NN1C(S2)=NN=C1C1=CC(=C(C(=C1)OC)OC)OC | C19H16N6O3S
